US07875645B2
2-(2,6-Difluoro-3-methyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2,6-difluoro-3-methyl-phenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): colourless powder; MS (ISP): 210.1 ((M+H)+.).

reactant | (2,6-difluoro-3-methyl-phenyl)-acetonitrile | FC1=C(C(=CC=C1C)F)CC#N | C9H7F2N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2,6-Difluoro-3-methyl-benzyl)-4,5-dihydro-1H-imidazole | FC1=C(CC=2NCCN2)C(=CC=C1C)F | C11H12F2N2
